US04618683
3,4-Dimethoxy-N-(2-propenyl)-benzocyclobutene-1-carboxamide
A solution of 3,4-dimethoxybenzocyclobutene-1-carboxylic acid and 400 mL benzene was stirred under N2 at 0° as oxalyl chloride (40.6 mL, 0.47 mole) was added dropwise. The reaction mixture was stirred for 2 hours at room temperature, then solvents were evaporated. Benzene was added and evaporated. The acid chloride was dissolved in CH2Cl2 (200 mL) and was added dropwise to a stirred, 0° solution of allylamine (8.5 mL, 0.11 mole), triethylamine (59 mL), and CH2Cl2 (212 mL). The reaction mixture was stirred for 1 hour at room temperature, then water was added. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were washed with 1N HCl, saturated aqueous NaHCO3, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated (in-vacuo) to yield 19.8 g cream colored solid, (84%); mp 98°-9°; M+ 247.

reactant | 3,4-dimethoxybenzocyclobutene-1-carboxylic acid | COC1=C(C=CC=2C(=CC21)C(=O)O)OC | C11H10O4
reactant | benzene | 400 mL | C1=CC=CC=C1 | C6H6
reactant | oxalyl chloride | 0.47 mole, 40.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | allylamine | 0.11 mole, 8.5 mL | C(C=C)N | C3H7N
solvent | water | O | H2O
solvent | CH2Cl2 | 212 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 59 mL | C(C)N(CC)CC | C6H15N
product | 3,4-Dimethoxy-N-(2-propenyl)-benzocyclobutene-1-carboxamide | COC1=C(C=CC=2C(=CC21)C(=O)NCC=C)OC | C14H15NO3
